US06521643B1
To a suspension of 3-(3-trifluoromethylpyridin-2-yl)aniline (200 mg), N,N′-bis(tert-butoxycarbonyl)thiourea (278 mg) and diisopropylethylamine (0.336 ml) in dichloromethane (10 ml) was added 1-methyl-2-chloropyridinium iodide (279 mg), and the mixture was stirred for 16 hours. The mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography (silica gel 30 g, n-hexane:ethyl acetate=4:1) to give N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-trifluoromethylpyridin-2-yl)phenyl)guanidine (234 mg).

reactant | 3-(3-trifluoromethylpyridin-2-yl)aniline | 200 mg | FC(C=1C(=NC=CC1)C=1C=C(N)C=CC1)(F)F | C12H9F3N2
reactant | N,N′-bis(tert-butoxycarbonyl)thiourea | 278 mg | C(C)(C)(C)OC(=O)NC(=S)NC(=O)OC(C)(C)C | C11H20N2O4S
reactant | diisopropylethylamine | 0.336 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 1-methyl-2-chloropyridinium iodide | 279 mg | [I-].C[N+]1=C(C=CC=C1)Cl
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N′-bis(tert-butoxycarbonyl)-N″-(3-(3-trifluoromethylpyridin-2-yl)phenyl)guanidine | 234 mg | C(C)(C)(C)OC(=O)NC(=NC1=CC(=CC=C1)C1=NC=CC=C1C(F)(F)F)NC(=O)OC(C)(C)C | C23H27F3N4O4
